US08212045B2
To 700 mL of acetonitrile was added sodium isothiocyanate (12.5 g, 155 mmol), pyridine (25.2 ml, 309 mmol) and (R)-N-(methylsulfonyloxy)-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride (38.4 g, 129 mmol) and the reaction heated to 60° C. for 15 minutes (white solid formed). To the mixture was added 3-(2-methylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-amine (32 g, 103 mmol) as a solid and the reaction was stirred for 14 hours at 60° C. The reaction was cooled and concentrated in vacuo. The residue was partitioned between EtOAc and 1N NaOH. The aqueous mixture (basic, about 700 ML) was extracted twice with EtOAc (3000 mL total volume). The combined organic layers were washed with 1 N NaOH (300 mL) and brine (300 mL), dried over MgSO4 and concentrated in vacuo. The residue was purified by chromatography on about 1 kg of silica gel using 1:1 EtOAc/CH2Cl2 with 1% MeOH as eluent to afford (S)-N-(3-(2-methylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine (38.7 g, 72.4 mmol, 70.2% yield).

reactant | sodium isothiocyanate | 155 mmol, 12.5 g | [N-]=C=S.[Na+]
reactant | pyridine | 309 mmol, 25.2 ml | N1=CC=CC=C1 | C5H5N
reactant | (R)-N-(methylsulfonyloxy)-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride | 129 mmol, 38.4 g | CS(=O)(=O)ON=C([C@@H]1OC2(OC1)CCCCC2)Cl | C10H16ClNO5S
reactant | 3-(2-methylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-amine | 103 mmol, 32 g | CC1=NC=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)N | C16H14N4OS
solvent | acetonitrile | 700 mL | C(C)#N | C2H3N
product | (S)-N-(3-(2-methylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine | 72.4 mmol, 38.7 g, 70.2% yield | CC1=NC=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)NC1=NC(=NS1)[C@@H]1OC2(OC1)CCCCC2 | C26H26N6O3S2
